US05200412
To an ice cold stirred solution of N-methylcylohexylamine (20 ml, 0.15 mol) and triethylamine (22 ml) in dry THF (100 ml) under argon was slowly added p-toluoyl chloride (20 ml, 0.15 mol). A white precipitate formed. The ice bath was removed and the mixture stirred at ambient temperature for 24 h. Ice cold 2M hydrochloric acid (100 ml) was added and the organic layer separated. The aqueous layer was extracted with ethyl acetate (3×100 ml). The combined organics were washed with brine (3×100 ml), dried over anhydrous sodium sulphate, filtered and evaporated to give the crude amide, which was crystallised from hexane to give N-cyclohexyl-N-methyl-4-methylbenzamide (30.9 g, 87%) as a white crystalline solid.

reactant | N-methylcylohexylamine | 0.15 mol, 20 ml | CNC1CCCCC1 | C7H15N
reactant | triethylamine | 22 ml | C(C)N(CC)CC | C6H15N
reactant | p-toluoyl chloride | 0.15 mol, 20 ml | C1(=CC=C(C=C1)C(=O)Cl)C | C8H7ClO
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | N-cyclohexyl-N-methyl-4-methylbenzamide | 30.9 g, 87% | C1(CCCCC1)N(C(C1=CC=C(C=C1)C)=O)C | C15H21NO
